US03956216
N-acrylyl-3,5-dimethyl pyrazole was prepared by reacting 3,5-dimethylpyrazole with acrylyl chloride in the presence of triethylamine. 19.2 grams (0.2 mole) of 3,5-dimethylpyrazole and 20.2 grams (0.2 mole) of triethylamine were dissolved in 125 milliliters of benzene and the solution put into a dropping funnel. The acrylyl chloride, 18.1 grams (0.2 mole) was dissolved in 25 milliliters of benzene and this solution put into a flask equipped for stirring and cooled to 10°C. The pyrazole solution was then added to the acrylyl chloride solution over a period of 45 minutes with constant stirring. Temperature of the reaction mix was held at 8° to 15°C. throughout the addition. Following the addition, the reaction mix was allowed to warm to room temperature and let stand for 4 hours. The mix was then filtered to remove triethylamine-hydrochloric acid salt which was formed in the reaction. The filtrate was heated to evaporate off volatiles, leaving 24.5 grams of an amber-colored liquid residue. The residue was then cooled to about 0°C. and 12.1 grams of a white crystalline precipitate was filtered out. After standing 16 hours at about 0°C., 2.5 more grams of crystalline solid was filtered out. The solids were combined and twice recrystallized from a solution of 18 milliliters of methanol and 2 milliliters of water to yield 9.4 grams of a crystalline solid having a melting point of 36°-37°C. The nuclear magnetic resonance (NMR) spectra of the solid conformed with that of the expected product.

reactant | 3,5-dimethylpyrazole | CC1=NNC(=C1)C | C5H8N2
reactant | acrylyl chloride | C(C=C)(=O)Cl | C3H3ClO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 3,5-dimethylpyrazole | 0.2 mole, 19.2 grams | CC1=NNC(=C1)C | C5H8N2
reactant | triethylamine | 0.2 mole, 20.2 grams | C(C)N(CC)CC | C6H15N
reactant | pyrazole | N1N=CC=C1 | C3H4N2
solvent | benzene | 125 milliliters | C1=CC=CC=C1 | C6H6
solvent | benzene | 25 milliliters | C1=CC=CC=C1 | C6H6
product | N-acrylyl-3,5-dimethyl pyrazole | C(C=C)(=O)N1N=C(C=C1C)C | C8H10N2O
